US04948794
1.5 g (7.1 mmol) N-carboxyethyl-2-nitroaniline was dissolved in 50 ml ethanol and the solution was hydrogenated at atm. pressure by using 5% Pd/C (100 mg) as a catalyst. The reaction mixture was filtered and evaporated. 50 ml 4N hydrochloric acid and 1.6 g (13 mmol) oxalic acid dihydrate was added, and the reaction mixture was refluxed for 2 h. After cooling to 25° C. the precipitate was filtered off, washed with water and ethanol to give 0,4 g (24%) 1-carboxyethyl-quinoxaline-2,3(1H,4H)-dione. M.p. >300° C. 1H-NMR (DMSO-d6): 12.0 (1H, broad s), 7.2 (4H, m), 4.3 (2H, t), 2.6 (2H, t).

reactant | N-carboxyethyl-2-nitroaniline | 7.1 mmol, 1.5 g | C(=O)(O)CCNC1=C(C=CC=C1)[N+](=O)[O-] | C9H10N2O4
reactant | hydrochloric acid | 4N, 50 ml | Cl | ClH
reactant | oxalic acid dihydrate | 13 mmol, 1.6 g | O.O.C(C(=O)O)(=O)O
reactant | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 1-carboxyethyl-quinoxaline-2,3(1H,4H)-dione | 0,4 g, 24% | C(=O)(O)C(C)N1C(C(NC2=CC=CC=C12)=O)=O | C11H10N2O4
